US07973163B2
tert-Butyl (3aR*,4R*,9bR*)-4-(hydroxymethyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1-carboxylate
To a solution of calcium chloride (12.5 g, 113.1 mmol) in a mixture of tetrahydrofuran-ethanol (200 ml-200 ml) was added sodium borohydride (8.5 g, 226.2 mmol) at 0° C. and the mixture was stirred for 30 min. A solution of 1-tert-butyl 4-ethyl(3aR*,4R*,9bR*)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1,4-dicarboxylate (14.6 g, 46.6 mmol) in tetrahydrofuran (50 ml) was added at 0° C., and the mixture was stirred at room temperature for 16 hrs. Saturated aqueous sodium hydrogen carbonate solution and ethyl acetate were added, and the organic layer was separated, and the aqueous layer was extracted with ethyl acetate. The organic layer was dried (over anhydrous MgSO4) and the solvent was evaporated under reduced pressure. The residue was subjected to silica gel column chromatography and eluted with hexane-ethyl acetate (1:9, v/v) to give the title compound (326 mg, 96%) as an oil.

reactant | calcium chloride | 113.1 mmol, 12.5 g | [Cl-].[Ca+2].[Cl-]
reactant | sodium borohydride | 226.2 mmol, 8.5 g | [BH4-].[Na+]
reactant | 2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1,4-dicarboxylate | 46.6 mmol, 14.6 g | N1(CCC2C(NC=3C=CC=CC3C21)C(=O)[O-])C(=O)[O-]
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | tetrahydrofuran-ethanol | 200 ml-200 ml | O1C(CCC1)CCO | C6H12O2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | tert-Butyl (3aR*,4R*,9bR*)-4-(hydroxymethyl)-2,3,3a,4,5,9b-hexahydro-1H-pyrrolo[3,2-c]quinoline-1-carboxylate | 326 mg, 96% | OC[C@@H]1NC=2C=CC=CC2[C@H]2[C@@H]1CCN2C(=O)OC(C)(C)C | C17H24N2O3
